US04103009
2,4-diamino-6-(3-trifluoromethyl-6-chlorophenyl)-s-triazine
4.0 g of 3-cyano-4-chlorobenzotrifluoride (90°-102° C./29 mm Hg), 2.0 g of dicyanodiamide and 1.0 g of caustic potash are refluxed in 10 ml of diglyme for 3 hours. After cooling, the mixture is diluted with water and the separated crystals are recrystallized from methanol. Melting point: 210°-212° C.; yield: 3.8 g.

reactant | 3-cyano-4-chlorobenzotrifluoride | 4.0 g | C(#N)C=1C=C(C=CC1Cl)C(F)(F)F | C8H3ClF3N
reactant | dicyanodiamide | 2.0 g | C(#N)N=C(N)N | C2H4N4
reactant | caustic potash | 1.0 g | [OH-].[K+]
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 2,4-diamino-6-(3-trifluoromethyl-6-chlorophenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1Cl)C(F)(F)F | C10H7ClF3N5
